US06777418B2
To a suspension of 0.955 g (8.52 mmol) of potassium tert-butoxide and 1.877 g (7.10 mmol) 18-crown-6 ether in 35 ml tetrahydrofuran was added 0.580 g (8.52 mmol) pyrazole. After 10 minutes 2.557 g (7.10 mmol) 2-bromo-5,5,8,8-tetramethyl-3-bromomethyl-5,6,7,8-tetrahydronaphthalene was added in 15 ml THF. After 17 hours the reaction was concentrated under reduced pressure and acidified with 1M hydrochloric acid. The aqueous solution was extracted with ethyl ether, washed with saturated sodium bicarbonate, water, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The crude material was purified by flash chromatography (gradient elution with hexane-25% ethyl acetate/hexane) to afford 1.185 g (48%) of 2-bromo-5,5,8,8,-tetramethyl-3-((pyrazol-1-yl)methyl)-5,6,7,8-tetrahydronaphthalene (M+1=348).

reactant | potassium tert-butoxide | 8.52 mmol, 0.955 g | CC(C)([O-])C.[K+]
reactant | 18-crown-6 ether | 7.10 mmol, 1.877 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | pyrazole | 8.52 mmol, 0.580 g | N1N=CC=C1 | C3H4N2
reactant | 2-bromo-5,5,8,8-tetramethyl-3-bromomethyl-5,6,7,8-tetrahydronaphthalene | 7.10 mmol, 2.557 g | BrC1=CC=2C(CCC(C2C=C1CBr)(C)C)(C)C | C15H20Br2
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-bromo-5,5,8,8,-tetramethyl-3-((pyrazol-1-yl)methyl)-5,6,7,8-tetrahydronaphthalene | 1.185 g, 48% | BrC1=CC=2C(CCC(C2C=C1CN1N=CC=C1)(C)C)(C)C | C18H23BrN2
